US05486525
Step 1: 4-methoxycarbonyl-3-(3-fluoro-4-methylbenzoyl}indole.
The desired compound was prepared according to the method of Example 90, step 2, except substituting 4-methoxycarbonylindole for 4,7-dimethoxycarbonylindole, and substituting 3-fluoro-4-methylbenzoyl chloride, prepared by reaction of 3-fluoro-4-methylbenzoic acid with thionyl chloride, for 4-chloromethylbenzoyl chloride.

reactant | 4,7-dimethoxycarbonylindole | COC(=O)C1=C2C=CNC2=C(C=C1)C(=O)OC | C12H11NO4
reactant | 3-fluoro-4-methylbenzoic acid | FC=1C=C(C(=O)O)C=CC1C | C8H7FO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloromethylbenzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
product | 4-methoxycarbonyl-3-(3-fluoro-4-methylbenzoyl}indole | COC(=O)C1=C2C(=CNC2=CC=C1)C(C1=CC(=C(C=C1)C)F)=O | C18H14FNO3
